US06166206
a) 5-Iodo-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo-[3,4-d]pyrimidine-2,4(3H,6H)-dione
3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo-[3,4-d]pyrimidine-2,4(3H,6H)-dione ((J. Med. Chem., 1995, 38, 2557; 500 mg) was dissolved in tetrahydrofuran (15 ml) and cooled to -78° C. A solution of lithium diisopropylamide (2 eq) in tetrahydrofuran (5 ml) was added dropwise with stirring at -78° C. Iodine (350 mg) was added and the reaction mixture was allowed to stir at -78° C. for 1 hour and was then allowed to warm to room temperature. The mixture was then poured into saturated ammonium chloride solution and extracted twice with ethyl acetate. The combined organic phases were washed with sodium thiosulphate solution, and with brine, before being dried and evaporated. The resultant foam was chromatographed using isohexane:diethyl ether (1:3) to give a foam which was recrystallised from diethyl ether/isohexane to give the subtitle compound as a pale yellow sold (350 mg).

reactant | 3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo-[3,4-d]pyrimidine-2,4(3H,6H)-dione | CN1C(N(C=2C(C1=O)=CN(C2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H23N3O2
reactant | lithium diisopropylamide | 2 eq | C(C)(C)[N-]C(C)C.[Li+]
reactant | Iodine | 350 mg | II | I2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-Iodo-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo-[3,4-d]pyrimidine-2,4(3H,6H)-dione | IC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C22H22IN3O2
